US09371321B2
Preparation 10: tert-Butyl (S)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate
To a 250 mL round-bottom flask were added (S)-tert-butyl 2-methylpiperazine-1-carboxylate (3.94 g, 19.7 mmol) and (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (2.5 g, 9.8 mmol) in 1,4-dioxane (23 mL). To the resulting solution was added potassium 2-methylpropan-2-olate (1 M in THF, 21 mL, 21 mmol), and the mixture was heated to 90° C. for 1 hour. After cooling for 10 minutes, the red mixture was poured into 300 mL of saturated NaHCO3 and then extracted with EtOAc (3×). The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to give crude product, which was purified by preparative HPLC (acid mode, 25-50% ACN/water gradient). The product-containing fractions were combined, concentrated in vacuo, and partitioned between saturated NaHCO3 and EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound (1.41 g, 38.4%). ESI-MS m/z [M+H]+ calc'd for C20H31N5O2, 374. found 374.

reactant | (S)-tert-butyl 2-methylpiperazine-1-carboxylate | 19.7 mmol, 3.94 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 9.8 mmol, 2.5 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | potassium 2-methylpropan-2-olate | 21 mmol, 1 M, 21 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 23 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (S)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 1.41 g, 38.4% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C | C20H31N5O2
